US04483858
Step A: Preparation of 8-mercaptoimidazo[1,2-a]pyrazine
To 3.10 g(0.02 mol) of 8-chloroimidazo[1,2-a]pyrazine in 70 ml of ethanol was added 1.52 g (0.02 mol) of thiourea and the mixture was refluxed. After 3 hours, the reaction mixture was cooled to 0° C. The thiouronium salt was collected by filtration, dried and suspended in 80 ml of water. To this was added 3.46 g (33 mmol) of sodium carbonate. The reaction mixture was stirred for 15 minutes and then diluted with 30 ml of 5% sodium hydroxide solution. The aqueous solution was washed with 50 ml of chloroform, made acidic with acetic acid and then extracted with 2×50 ml of chloroform. The organic extracts were dried (Na2SO4), filtered, and concentrated to yield the crystalline product.

reactant | 8-chloroimidazo[1,2-a]pyrazine | 0.02 mol, 3.10 g | ClC=1C=2N(C=CN1)C=CN2 | C6H4ClN3
reactant | thiourea | 0.02 mol, 1.52 g | NC(=S)N | CH4N2S
reactant | sodium carbonate | 33 mmol, 3.46 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 30 ml | [OH-].[Na+]
product | 8-mercaptoimidazo[1,2-a]pyrazine | SC=1C=2N(C=CN1)C=CN2 | C6H5N3S
